US07300946B2
Step A Synthesis of 4-{bis[4-(trifluoromethyl)phenyl]methylene}piperidine as an intermediate
A solution of 10.0 grams (0.025 mole) of 4-{bis[4-(trifluoromethyl)phenyl]hydroxymethyl}piperidine (known compound) in 50 mL of trifluoroacetic acid was heated to 70° C. where it stirred for four hours. After this time, excess trifluoroacetic acid was removed by distillation. The residue remaining from the distillation was added drop wise to ice water. Upon completion of addition, the mixture was neutralized with an aqueous solution saturated with potassium carbonate. The mixture was then extracted with methylene chloride, and the extract was washed with an aqueous solution saturated with sodium chloride. The extract was concentrated under reduced pressure to a residue, and the residue was crystallized in hexane, yielding in two crops, 9.1 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-{bis[4-(trifluoromethyl)phenyl]hydroxymethyl}piperidine | 0.025 mole, 10.0 grams | FC(C1=CC=C(C=C1)C(C1CCNCC1)(O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C20H19F6NO
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-{bis[4-(trifluoromethyl)phenyl]methylene}piperidine | 9.1 grams | FC(C1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C20H17F6N
